* source BJT_0106
V_V1         VCC 0 5
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND IN IO_STM IO_LEVEL=0 
+ 0 0
+ +0.5m 1
+REPEAT FOREVER
+ +0.5m 0
+  +0.5m 1
+ ENDREPEAT
R_R1         OUT1 VCC  1k TC=0,0 
Q_Q1         OUT1 N00339 0 Q2N3904
R_R2         IN N00339  47k TC=0,0 
U_DSTM2         STIM(1,1) $G_DPWR $G_DGND IN IO_STM IO_LEVEL=0 
+ 0 0
+ +0.5m 1
+REPEAT FOREVER
+ +0.5m 0
+  +0.5m 1
+ ENDREPEAT
R_R4         OUT2 VCC  1k TC=0,0 
R_R3         IN N01229  47k TC=0,0 
Q_Q2         OUT2 N01229 0 Q2N3904
R_R5         0 N01229  47k TC=0,0 
R_R7         IN N02634  10k TC=0,0 
U_DSTM3         STIM(1,1) $G_DPWR $G_DGND IN IO_STM IO_LEVEL=0 
+ 0 0
+ +0.5m 1
+REPEAT FOREVER
+ +0.5m 0
+  +0.5m 1
+ ENDREPEAT
R_R6         N02558 VCC  47 TC=0,0 
Q_Q3         OUT3 N02634 0 Qmmbt3904tt1
D_D1         N02558 OUT3 UPWLEDxx 
