* source 0419_MOSFET
V_V1         VCC 0 12
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND IN IO_STM IO_LEVEL=0 
+ 0 0
+ +50m 1
+REPEAT FOREVER
+ +50m 0
+  +50m 1
+ ENDREPEAT
R_R1         VCC N00479  47k TC=0,0 
R_R2         IN N00479  10k TC=0,0 
R_R3         0 OUT1  1k TC=0,0 
M_M1         OUT1 N00479 VCC VCC CEDM8001           
