* source NON_INVERTINGAMP_0110
V_V4         VSIN 0  
+SIN 0 0.5 1k 0 0 0
V_V3         VCC2 0 6Vdc
R_R1         REF VCC  10k TC=0,0 
V_V1         VCC 0 12Vdc
V_V2         VEE 0 -12Vdc
R_R2         0 REF  10k TC=0,0 
C_C1         0 REF  1u  TC=0,0 
X_U1A         VSIN N01530 VCC VEE DUAL LM324
R_R3         0 VSIN  1k TC=0,0 
R_R4         N01530 DUAL  1k TC=0,0 
R_R5         0 N01530  1k TC=0,0 
X_U1B         N02458 N02522 VCC 0 SINGLE LM324
R_R7         N02522 SINGLE  1k TC=0,0 
R_R8         REF N02522  1k TC=0,0 
R_R6         REF N02458  1k TC=0,0 
C_C2         VSIN N02458  1u  TC=0,0 
