* source OPEN_COLLECTOR_0107
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND IN IO_STM IO_LEVEL=0 
+ 0 0
+ +0.5m 1
+REPEAT FOREVER
+ +0.5m 0
+  +0.5m 1
+ ENDREPEAT
X_U1A         IN 7404 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         IN 7405 $G_DPWR $G_DGND 7405 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
V_V1         VCC 0 12Vdc
V_V2         VCC 0 5Vdc
X_U2B         IN OUT $G_DPWR $G_DGND 7405 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R1         OUT VCC  1k TC=0,0 
