* source OP_AMP_0110
V_V1         VCC 0 12Vdc
V_V2         VEE 0 -12Vdc
V_V3         VCC2 0 6Vdc
V_V4         VSIN 0  
+SIN 0 0.5 1k 0 0 0
R_R1         REF VCC  10k TC=0,0 
R_R2         0 REF  10k TC=0,0 
C_C1         0 REF  1u  TC=0,0 
R_R3         VSIN N00990  1k TC=0,0 
X_U1A         N01466 N00990 VCC VEE DUAL LM324
R_R4         0 N01466  1k TC=0,0 
R_R5         N00990 DUAL  2k TC=0,0 
R_R6         N02302 SINGLE  2k TC=0,0 
R_R7         N03299 N02302  1k TC=0,0 
R_R8         REF N02422  1k TC=0,0 
X_U1B         N02422 N02302 VCC 0 SINGLE LM324
C_C2         VSIN N03299  1u  TC=0,0 
