* source 0112_MEASUREPULSE
X_U1A         N00168 N00189 $G_DPWR $G_DGND 74HC14 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         N00189 N00193 $G_DPWR $G_DGND 74HC14 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R1         N00168 N00219  10k TC=0,0 
C_C1         N00193 N00219  4.7n  TC=0,0 
R_R2         N00189 N00219 {10k*0.44+.001}
.IC         V(N00219 )=6
