* source 0111_SIGNAL_DETECTOR
.EXTERNAL OUTPUT B
V_V1         VCC 0 12Vdc
R_R1         N00531 VCC  1meg TC=0,0 
R_R2         B VCC  10k TC=0,0 
X_U1A         N00531 N00539 VCC 0 B LM358
V_V2         N00513 0  
+PULSE 0 12 1m 1u 1u 0.3m 100m
V_V3         N00539 0  
+PULSE 0 1 5m 1u 1u 0.3m 100m
D_D1         N00513 N00531 D1N4148 
R_R3         0 N00531  47k TC=0,0 
C_C1         0 N00531  10n  TC=0,0 
