* source 0111_SINGLE_SONIC
V_V3         VCC2 0 6Vdc
V_V2         VEE 0 -12Vdc
V_V1         VCC 0 12Vdc
C_C4         SINGLE2 N11673  1n  TC=0,0 
R_R9         N11371 SINGLE1  100k TC=0,0 
C_C1         0 REF  1u  TC=0,0 
R_R1         REF VCC  10k TC=0,0 
R_R11         N11547 N11371  10k TC=0,0 
R_R2         0 REF  10k TC=0,0 
R_R12         SINGLE1 N11415  10k TC=0,0 
R_R10         N11415 SINGLE2  100k TC=0,0 
C_C3         RX N11547  1n  TC=0,0 
V_V5         N12634 0  
+SIN 3.5 10m 40k 0 0 0
V_V6         N12651 0  
+PWL 0 0 1m 0 1.01m 1 20m 1 20.01m 0 
E_MULT1         RX 0 VALUE {V(N12651)*V(N12634)}
C_C5         0 N12878  680p  TC=0,0 
D_D1         N11673 N12878 1SS106 
D_D2         0 N11673 1SS106 
X_U6A         REF N11371 VCC 0 SINGLE1 RC4558
X_U6B         REF N11415 VCC 0 SINGLE2 RC4558
