* source 0110_SUPER_SONIC
.EXTERNAL OUTPUT A
R_R1         N07446 N07474  170k TC=0,0 
C_C1         0 N07446  100p  TC=0,0 
X_U2A         SONIC SONIC_PULSE N07618 $G_DPWR $G_DGND 7437 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
C_C2         0 N07478  100n  TC=0,0 
R_R2         VCC N07474 {50k*0.2+.001}
R_R7         0 N07638  10k TC=0,0 
X_X2         0 N08034 A VCC N08068 N08034 N08064 VCC 555D PARAMS: MAXFREQ=3E6
R_R4         N08034 N08064  8.2k TC=0,0 
R_R5         N08064 VCC  2meg TC=0,0 
X_U4B         N07626 N07632 $G_DPWR $G_DGND 7414 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3A         N07618 N07626 $G_DPWR $G_DGND 7414 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1A         A SONIC_PULSE $G_DPWR $G_DGND 7414 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R6         0 N07772  10k TC=0,0 
X_U4C         N07618 N07772 $G_DPWR $G_DGND 7414 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_X1         0 N07446 SONIC VCC N07478 N07446 N07474 VCC 555D PARAMS:
+  MAXFREQ=3E6
C_C4         0 N08068  100n  TC=0,0 
C_C5         N07632 N07638  100n  TC=0,0 
V_V1         VCC 0 12Vdc
C_C3         0 N08034  47n  TC=0,0 
.IC         V(N08034 )=6
.IC         V(N07446 )=6
