* source 0111_ULTRA_SONIC_RECEIVER
X_U3A         N06172 N05912 VCC VEE DUAL1 RC4558
R_R1         REF VCC  10k TC=0,0 
C_C1         0 REF  1u  TC=0,0 
R_R4         0 N06172  10k TC=0,0 
X_U4B         N06216 N05954 VCC VEE DUAL2 RC4558
R_R7         DUAL1 N05954  10k TC=0,0 
V_V3         VCC2 0 6Vdc
R_R8         0 N06216  10k TC=0,0 
R_R6         N05954 DUAL2  100k TC=0,0 
V_V4         RX 0  
+SIN 3.5 10m 40k 0 0 0
V_V1         VCC 0 12Vdc
R_R2         0 REF  10k TC=0,0 
C_C2         RX N06088  1n  TC=0,0 
R_R5         N05912 DUAL1  100k TC=0,0 
V_V2         VEE 0 -12Vdc
R_R3         N06088 N05912  10k TC=0,0 
C_C3         RX N08368  1n  TC=0,0 
R_R11         N08368 N08190  10k TC=0,0 
R_R12         SINGLE1 N08234  10k TC=0,0 
R_R10         N08234 SINGLE2  100k TC=0,0 
R_R9         N08190 SINGLE1  100k TC=0,0 
X_U5B         REF N08190 VCC 0 SINGLE1 RC4558
X_U4C         REF N08234 VCC 0 SINGLE2 RC4558
C_C4         SINGLE2 N09975  1n  TC=0,0 
R_R13         N09975 0  10k TC=0,0 
