* source RLC
V_V1         PUL 0  AC 1
+PULSE 0 1 0 1u 1u 15m 30m
R_R1         AC LPF_1K  1k TC=0,0 
C_C1         0 LPF_1K  1u  TC=0,0 
V_V2         AC 0 DC 0Vdc AC 1Vac 
L_L2         PUL LPF_L  1H  
R_R8         0 LPF_L  1k TC=0,0 
C_C2         LPF_LC 0  1u  TC=0,0 
L_L1         N03182 LPF_LC  1u  
R_R9         PUL N03182  3 TC=0,0 
