* source THE_NOR
R_R1         B A  2k TC=0,0 
R_R2         B A  2k TC=0,0 
R_R3         N00300 B  500 TC=0,0 
R_R4         A N00420  500 TC=0,0 
V_V1         N00300 0 3Vdc
R_R5         N00455 B  1k TC=0,0 
R_R6         N00451 A  1k TC=0,0 
I_I1         0 N00455 DC 2mA  
I_I2         0 N00451 DC 2mA  
V_V2         N00420 0 6Vdc
R_R7         B A  {RL} TC=0,0 
R_R8         N01398 AT  500 TC=0,0 
R_R9         0 AN  500 TC=0,0 
I_I3         0 AN DC 3m  
V_V3         N01398 0 1.5Vdc
R_R11         0 AT  {RL} TC=0,0 
R_R12         0 AN  {RL} TC=0,0 
.PARAM  rl=1m
