* source HW_20211231
R_R1         AC LPF_1M  1k TC=0,0 
C_C1         0 LPF_1M  1n  TC=0,0 
R_R2         0 HPF_1K  1k TC=0,0 
C_C2         HPF_1K AC  1u  TC=0,0 
C_C3         N00922 AC  1u  TC=0,0 
R_R3         0 N00922  1k TC=0,0 
R_R4         N00922 BPF_1K_1M  1k TC=0,0 
C_C4         0 BPF_1K_1M  1n  TC=0,0 
V_V1         AC 0 DC 0Vdc AC 1Vac 
