* source HW_0107
D_D1         N01691 N01697 SMLE13WBC8W1 
D_D3         N01703 N01709 SMLE13WBC8W1 
D_D5         N01715 N01721 SMLE13WBC8W1 
D_D2         N01697 N01703 SMLE13WBC8W1 
U_DSTM1         STIM(1,1) $G_DPWR $G_DGND N01845 IO_STM IO_LEVEL=0 
+ 0 0
+ +0.5m 1
+REPEAT FOREVER
+ +0.5m 0
+  +0.5m 1
+ ENDREPEAT
Q_Q1         N01721 N01851 0 Q2SCR522M
V_V1         VCC 0 24Vdc
R_R1         VCC N01691  1.6k TC=0,0 
R_R2         N01845 N01851  75k TC=0,0 
D_D4         N01709 N01715 SMLE13WBC8W1 
V_V2         VDD 0 5Vdc
X_U1A         IN N02299 $G_DPWR $G_DGND 7405 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R3         N02299 VDD  3.3k TC=0,0 
D_D9         N03908 N03344 SMLE13WBC8W1 
R_R4         N03908 VCC1  80 TC=0,0 
Q_Q2         N03344 N04277 0 Q2SCR522M
D_D10         N03908 N03344 SMLE13WBC8W1 
R_R5         N034020 N04277  22k TC=0,0 
D_D6         N03908 N03344 SMLE13WBC8W1 
D_D7         N03908 N03344 SMLE13WBC8W1 
U_DSTM2         STIM(1,1) $G_DPWR $G_DGND N034020 IO_STM IO_LEVEL=0 
+ 0 0
+ +0.5m 1
+REPEAT FOREVER
+ +0.5m 0
+  +0.5m 1
+ ENDREPEAT
D_D8         N03908 N03344 SMLE13WBC8W1 
V_V3         VCC1 0 5Vdc
V_V4         VDD_12 0 12Vdc
X_U1B         N02299 OUT $G_DPWR $G_DGND 7405 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
R_R6         OUT VDD_12  3.3k TC=0,0 
U_DSTM3         STIM(1,1) $G_DPWR $G_DGND IN IO_STM IO_LEVEL=0 
+ 0 0
+ +0.5m 1
+REPEAT FOREVER
+ +0.5m 0
+  +0.5m 1
+ ENDREPEAT
D_D11         VCC3 VCC2 D1N4148 
D_D12         0 VCC3 D1N4148 
V_V5         VCC2 0 4.3Vdc
V_V6         VCC3 0  AC 10
+SIN 0 10 500 0 0 0
