* source HW_0110
R_R2         0 REF  10k TC=0,0 
R_R1         REF VCC  10k TC=0,0 
C_C1         0 REF  1u  TC=0,0 
V_V1         VCC 0 30Vdc
C_C2         VAC N03585  1u  TC=0,0 
R_R6         REF N03585  1k TC=0,0 
R_R8         REF N03723  1k TC=0,0 
R_R7         N03723 SINGLE  99k TC=0,0 
R_R3         0 VAC  1k TC=0,0 
R_R4         N03709 DUAL  99k TC=0,0 
R_R5         0 N03709  1k TC=0,0 
X_U3A         VAC N03709 VCC VEE DUAL RC4558
X_U3B         N03585 N03723 VCC 0 SINGLE RC4558
V_V5         VAC 0 DC 0Vdc AC 1Vac 
V_V2         VEE 0 -30Vdc
V_V4         VSIN 0  
+SIN 0 0.1 3.3k 0 0 0
