* source HOMEWORK
V_V1         AC 0 DC 0Vdc AC 1Vac 
R_R1         AC LPF_1M  1k TC=0,0 
C_C1         0 LPF_1M  1n  TC=0,0 
V_V2         AC 0 DC 0Vdc AC 1Vac 
C_C2         HPF_1K AC  1u  TC=0,0 
R_R2         HPF_1K 0  1k TC=0,0 
C_C3         N01592 AC  1u  TC=0,0 
R_R3         N01592 0  1k TC=0,0 
V_V3         AC 0 DC 0Vdc AC 1Vac 
R_R4         N01592 BPF_1K_1M  1k TC=0,0 
C_C4         0 BPF_1K_1M  1n  TC=0,0 
