* source HW_0105
R_R1         0 OUT  1k TC=0,0 
C_C1         0 OUT  100uF  TC=0,0 
V_V2         VCC 0 12
R_R2         VCC N00441  270 TC=0,0 
L_L1         N00441 NON  47m  
R_R3         VCC N00695  270 TC=0,0 
L_L2         N00695 DIODE  47m  
L_L3         N00838 RC  47m  
R_R4         VCC N00838  270 TC=0,0 
C_C2         VCC N01079  1u  TC=0,0 
X_U1         NON 0 Sw_tOpen PARAMS: tOpen=1m ttran=1u Rclosed=0.01 Ropen=1Meg
X_U2         DIODE 0 Sw_tOpen PARAMS: tOpen=1m ttran=1u Rclosed=0.01 Ropen=1Meg
X_U3         RC 0 Sw_tOpen PARAMS: tOpen=1m ttran=1u Rclosed=0.01 Ropen=1Meg
V_V1         IN 0  
+SIN 0 {220 * 1.414} 60Hz 0 0 0
D_D1         IN OUT Dbreak 
D_D2         DIODE VCC D1N4148 
R_R5         N01079 RC  150 TC=0,0 
